US07148226B2
6-cyclopentyl-6-[2-(3,5-diethyl-4-hydroxyphenyl)ethyl]-4-hydroxy-3-([1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-5,6-dihydro-2H-pyran-2-one
The title compound was prepared analogously to Example A(224) where [1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde was used in place of 6-methyl[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde and 6-cyclopentyl-6-[2-(3,5-diethyl-4-hydroxyphenyl)ethyl]dihydro-2H-pyran-2,4(3H)-dione (Example A(235)) was used in place of 6-cyclopentyl-6-{2-[4-hydroxy-3-(2,2,2-trifluoroethyl)phenyl]ethyl}dihydro-2H-pyran-2,4(3H)-dione in that example. 1H NMR (DMSO): δ 1.20 (t, J=2.56 Hz, 6H), 1.30–1.80 (brm, 6H), 2.00–2.18 (brm, 5H), 2.40 (q, J=20.06 Hz 4H), 2.80 (m, 4H), 3.45 (m, 3H), 6.70 (s, 2H), 7.17 (d, J=2.54 Hz, 1H), 8.80 (m, 2H), 9.29 (s, 1H). Anal. Calcd. For C28H34O4N4, C, 68.55; H, 6.99, N, 11.42. Found: C, 68.80; H, 7.31; N, 11.45.

reactant | [1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | N1=C(N=C2N1C=CC=N2)C=O | C6H4N4O
reactant | 6-cyclopentyl-6-[2-(3,5-diethyl-4-hydroxyphenyl)ethyl]dihydro-2H-pyran-2,4(3H)-dione | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=CC(=C(C(=C1)CC)O)CC | C22H30O4
product | 6-cyclopentyl-6-[2-(3,5-diethyl-4-hydroxyphenyl)ethyl]-4-hydroxy-3-([1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-5,6-dihydro-2H-pyran-2-one | C1(CCCC1)C1(CC(=C(C(O1)=O)CC1=NN2C(N=CC=C2)=N1)O)CCC1=CC(=C(C(=C1)CC)O)CC | C28H34N4O4
